US06358980B1
4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-fluoro-benzyl)-piperidine-4-carboxylic acid was prepared starting from 4-(4-but-2-ynyloxy-benzenesulfonyl)-1-(4-fluoro-benzyl)-piperidine-4-carboxylic acid ethyl ester (9.5 g, 20 mmol) dissolved in THF:methanol 3:1 (100 ml) and 10 N NaOH (20 ml). The resulting reaction mixture was worked up as outlined in Example 1 (Step 7). Yield 5.7 g (63%); white solid; mp 106-106° C.; MS: 447 (M+H)+

reactant | 4-(4-but-2-ynyloxy-benzenesulfonyl)-1-(4-fluoro-benzyl)-piperidine-4-carboxylic acid ethyl ester | 20 mmol, 9.5 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C25H28FNO5S
solvent | THF methanol | 100 ml | C1CCOC1.CO
solvent | NaOH | 10 N, 20 ml | [OH-].[Na+]
product | 4-(4-But-2-ynyloxy-benzenesulfonyl)-1-(4-fluoro-benzyl)-piperidine-4-carboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC=C(C=C1)F)C(=O)O | C23H24FNO5S
